US05296495
To a cooled suspension of lithium diisopropylamide {(1.45 mM tetrahydrofuran and n-hexane solution), 3.7 ml} and methyl 2-methylpropionate (0.6 g), a dried hexamethylphosphoric triamide (0.5 ml) was added at -65 to -57° C. Subsequently, 4-tert-butyl-2-(5-chloromethylbenzofuran-2-yl)thiazole was added to the mixture in small portions. After being stirred for 30 minutes at the same temperature, additive hexamethylphosphoric triamide (1.5 ml) was added to the mixture. The reaction mixture was gradually elevated to -10° C. for 1 hour. The resulting mixture was poured into ice-water and extracted with diethyl ether. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate (20:1). The fractions containing object compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-[5-(2-methyl-2-methoxycarbonylpropyl)benzofuran-2-yl]thiazole (0.43 g).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran | 1.45 mM | O1CCCC1 | C4H8O
reactant | methyl 2-methylpropionate | 0.6 g | CC(C(=O)OC)C | C5H10O2
reactant | 4-tert-butyl-2-(5-chloromethylbenzofuran-2-yl)thiazole | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CCl | C16H16ClNOS
solvent | hexamethylphosphoric triamide | 1.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 0.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | n-hexane | CCCCCC | C6H14
product | 4-tert-butyl-2-[5-(2-methyl-2-methoxycarbonylpropyl)benzofuran-2-yl]thiazole | 0.43 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CC(C)(C(=O)OC)C | C21H25NO3S
